US06949648B2
N-(2-Fluorophenyl)-2-(hydroxyimino)acetamide
The title compound was prepared according to the method described in J. Heterocyclic Chem., vol. 27, p. 2151 (1990). To a solution of chloral hydrate (44.2 g, 267 mmol) and sodium sulfate (304 g, 2.14 mol) in water (700 mL), was added a solution of 2-fluoroaniline (27.0 g, 243 mmol) and conc. hydrochloric acid (70 mL) in water (140 mL) dropwise at room temperature, and furthermore hydroxylamine hydrochloride (74.4 g, 1.07 mol), and the resulting solution was heated under reflux for 10 minutes. The solution was ice cooled and the resulting crystals were collected by filtration and air dried to give the title compound (38.0 g, 86% yield).

reactant | chloral hydrate | 267 mmol, 44.2 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 2.14 mol, 304 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-fluoroaniline | 243 mmol, 27.0 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | hydrochloric acid | 70 mL | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.07 mol, 74.4 g | Cl.NO
solvent | water | 700 mL | O | H2O
solvent | water | 140 mL | O | H2O
product | N-(2-Fluorophenyl)-2-(hydroxyimino)acetamide | 38.0 g, 86% yield | FC1=C(C=CC=C1)NC(C=NO)=O | C8H7FN2O2
